US07141596B2
Step 4. methyl (2S)-2-[(tert-butoxycarbonyl)amino]-3-[4-(2-tert-butyl-1,1-dioxido-3-oxoisothiazolidin-5-yl)-3-chlorophenyl]propanoate
Methyl (2S)-2-[(tert-butoxycarbonyl)amino]-3-[4-(2-tert-butyl-1,1-dioxido-3-oxo-2,3-dihydroisothiazol-5-yl)-3-chlorophenyl]propanoate (300 mg, 0.598 mmol) in tetrahydrofuran (6.00 mL) was cooled to 0° C. and treated with lithium tetrahydroborate solution in tetrahydrofuran (2.0 M, 0.329 mL). The reaction was allowed to stir for 0.5 h at rt. After addition of acetic acid (0.5 mL), the solution was diluted with ethyl acetate (100 mL), washed with water (100 mL), separated, dried over sodium sulfate, filtered and was concentrated in vacuo. The crude material was purified by silica gel chromatography (5–30% ethyl acetate/hexanes) to afford the product as a white solid (162 mg, 54%). 1H NMR (400 MHz, CD3OD): δ 7.45–7.42 (m, 2H), 7.31–7.27 (m, 1H), 5.59 (t, J=8.0 Hz, 1H), 4.39–4.36 (m, 1H), 3.70 (s, 3H), 3.38–3.33 (m, 1H), 3.25–3.14 (m, 2H), 2.95–2.92 (m, 1H), 1.67 (s, 9H), 1.37 (s, 9H); LCMS found for C17H24ClN2O5S (M+H)+: m/z=403.

reactant | Methyl (2S)-2-[(tert-butoxycarbonyl)amino]-3-[4-(2-tert-butyl-1,1-dioxido-3-oxo-2,3-dihydroisothiazol-5-yl)-3-chlorophenyl]propanoate | 0.598 mmol, 300 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CC1=CC(=C(C=C1)C1=CC(N(S1(=O)=O)C(C)(C)C)=O)Cl | C22H29ClN2O7S
reactant | lithium tetrahydroborate | [BH4-].[Li+]
reactant | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 6.00 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.0 M, 0.329 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | methyl (2S)-2-[(tert-butoxycarbonyl)amino]-3-[4-(2-tert-butyl-1,1-dioxido-3-oxoisothiazolidin-5-yl)-3-chlorophenyl]propanoate | 162 mg, 54% | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CC1=CC(=C(C=C1)C1CC(N(S1(=O)=O)C(C)(C)C)=O)Cl | C22H31ClN2O7S
